US07129238B2
A solution of 4-(hydroxyimino-methyl)-3-phenoxy-benzonitrile (200 mg) in acetic acid (1.2 ml) was stirred at 65° C. Zinc powder (500 mg) was added portionwise during 30 min. After stirring for a further 1 h, the reaction mixture was filtered and the filtrate was concentrated to near dryness. Water was added and the mixture was washed with diethyl ether. The organic phase was extracted (1×) with diluted acetic acid. The pH of the combined aqueous phases was adjusted to 11 using 2 N NaOH. The mixture was extracted with EtOAc. The organic phase was dried, filtered and concentrated to give 4-aminomethyl-3-phenoxy-benzonitrile (165 mg) as a light yellow oil.

reactant | 4-(hydroxyimino-methyl)-3-phenoxy-benzonitrile | 200 mg | ON=CC1=C(C=C(C#N)C=C1)OC1=CC=CC=C1 | C14H10N2O2
solvent | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 500 mg | [Zn] | Zn
product | 4-aminomethyl-3-phenoxy-benzonitrile | 165 mg | NCC1=C(C=C(C#N)C=C1)OC1=CC=CC=C1 | C14H12N2O
